US04246263
4-(2-Hydroxy-2-phenylethylthiomethyl)pyridine
Under a nitrogen atmosphere, alpha-(4-picolylthio)acetophenone (852 mg., 3.5 mmoles) was dissolved in 8.75 ml. of isopropyl alcohol. Sodium borohydride (54 mg., 1.4 mmoles, 1.6 equiv.) was added. After stirring for 0.5 hour at room temperature, the reaction mixture was refluxed for 1 hour. The reaction mixture was cooled somewhat and then evaporated to an oil. With stirring, hydrochloric acid (4 N, 10 ml.) was added slowly to the oil, so as to control heating and foaming. Once addition was complete and there was no evidence of gas evolution, the acid solution was made strongly basic with 20% sodium hydroxide. The oil which precipiated was extracted into chloroform. The chloroform was back-washed with dilute sodium hydroxide, dried over anhydrous sodium sulfate and concentrated to an oil (0.87 g.) which crystallized to a waxy solid on standing. The solid was triturated with ether and filtered to yield crude product (0.61 g.). Recrystallization from ethyl acetate gave purified 4-(2-hydroxy-2-phenylethylthiomethyl)pyridine [0.42 g.; m.p. 116.5°- 119° C. (incomplete); ir (KBr): 3.17, 5.1-5.8, 6.22, 6.88, 9.49, 12.25, 13.88 and 14.25μ; mass spectra: m/e calcd.: 245, found: 245; pnmr/CDCl3 /TMS/δ: 8.73-8.37 (m, 2H), 7.57-7.10 (m, 7H), 4.75 (t, 1H), 3.63 (s, 2H), 3.10 (s, 1H, exchanges with D2O) and 2.72 (d, 2H)].

reactant | alpha-(4-picolylthio)acetophenone | 3.5 mmoles, 852 mg | N1=CC=C(C=C1)CSCC(=O)C1=CC=CC=C1 | C14H13NOS
reactant | Sodium borohydride | 1.4 mmoles, 54 mg, 1.6 equiv. | [BH4-].[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 4-(2-Hydroxy-2-phenylethylthiomethyl)pyridine | 0.61 g | OC(CSCC1=CC=NC=C1)C1=CC=CC=C1 | C14H15NOS
